US07541372B2
4-[5-(2-Methoxy-4-morpholin-4-yl-phenyl)-[1,3,4]oxadiazol-2-yl]-3-phenyl-isoxazole -5-carbonitrile
To a suspension of 4-{4-[5-(5-chloro-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl]-3-methoxy-phenyl }-morpholine (145 mg, 0.33 mmol) in DMF (2 mL) was added sodium cyanide (18 mg, 0.36 mmol) and the mixture was stirred for 18 h at ambient temperature. The resulting yellow-green suspension was treated with water (15 ml) and cooled to 0° C. After stirring for 15 min at 0° C. the suspension was filtered off and washed twice with ice cold water (5 ml) affording the title compound (119 mg, 84%) which was obtained as a yellow solid. MS: m/e=430.3 [M+H]+.

reactant | 4-{4-[5-(5-chloro-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl]-3-methoxy-phenyl }-morpholine | 0.33 mmol, 145 mg | ClC1=C(C(=NO1)C1=CC=CC=C1)C1=NN=C(O1)C1=C(C=C(C=C1)N1CCOCC1)OC | C22H19ClN4O4
reactant | sodium cyanide | 0.36 mmol, 18 mg | [C-]#N.[Na+]
reactant | water | 15 ml | O | H2O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 4-[5-(2-Methoxy-4-morpholin-4-yl-phenyl)-[1,3,4]oxadiazol-2-yl]-3-phenyl-isoxazole -5-carbonitrile | 119 mg, 84% | COC1=C(C=CC(=C1)N1CCOCC1)C1=NN=C(O1)C=1C(=NOC1C#N)C1=CC=CC=C1 | C23H19N5O4
